US07816350B2
b) 4,5-Diamino-2,6-dichloropyrimidine
To a solution of 4-amino-2,6-dichloro-5-nitropyrimidine, prepared as described in a), in methanol (30 ml), was added Raney nickel freshly prepared from 500 mg of alloy. The reaction mixture was stirred 20 hours in the hydrogen atmosphere. Then a new catalyst, prepared from 500 mg of alloy, was added and the reaction mixture was stirred next 24 hours in the hydrogen atmosphere. The catalyst was removed, the reaction mixture was concentrated in vacuo and the residue was extracted with hot water. Product, which was obtained after cooling of the water solution, was purified by chromatography (SiO2, VI—1:1)

reactant | 4-amino-2,6-dichloro-5-nitropyrimidine | NC1=NC(=NC(=C1[N+](=O)[O-])Cl)Cl | C4H2Cl2N4O2
reactant | hydrogen | [H][H] | H2
reactant | water | O | H2O
solvent | methanol | 30 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 4,5-Diamino-2,6-dichloropyrimidine | NC1=NC(=NC(=C1N)Cl)Cl | C4H4Cl2N4
